US08217028B2
To a stirred solution of 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole-3-carbaldehyde (D71) (150 mg), methyl L-alaninate (81 mg) and acetic acid (24 mg) in DCM (10 mL) was added NaBH(OAc)3 (167 mg). The mixture was stirred at 40° C. for 2 h, followed by addition of formaldehyde (120 mg). This mixture was stirred at 40° C. overnight. After concentration, the residue was dissolved in THF (5 mL), followed by addition of aqueous NaOH (2 M, 2 mL). The mixture was stirred at 60° C. overnight, and then acidified with aqueous HCl (2 M) to pH 4-5, partitioned between ethyl acetate (25 mL) and water (25 mL). The organic phase was washed with water (25 mL) and brine (25 mL), dried over anhydrous sodium sulphate, and evaporated to give the crude product, which was purified by Mass Directed Auto Prep to afford N-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-N-methyl-L-alanine (E54) (13 mg). δH (DMSO-d6, 400 MHz): 1.37 (6H, d), 1.56 (3H, d), 2.75 (3H, s), 4.17 (1H, q), 4.54 (2H, q), 4.90 (1H, m), 7.35 (1H, t), 7.46 (1H, d), 7.75 (1H, d), 8.03 (1H, d), 8.10 (1H, d), 8.21 (1H, dd), 8.39 (1H, d), 11.46 (1H, br s). MS (ES): C24H26ClN4O4 requires 468; found 366.1 (M—C4H8NO2+).

reactant | 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indole-3-carbaldehyde | 150 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)C=O | C20H16ClN3O3
reactant | methyl L-alaninate | 81 mg | N[C@@H](C)C(=O)OC | C4H9NO2
reactant | NaBH(OAc)3 | 167 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | formaldehyde | 120 mg | C=O | CH2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 24 mg | C(C)(=O)O | C2H4O2
product | N-{[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]methyl}-N-methyl-L-alanine | 13 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CN([C@@H](C)C(=O)O)C | C24H25ClN4O4
